US07288547B2
Production of 5-[5-bromo-4-(1-ethyl-2-hydroxy-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide
26 mg (0.058 mmol) of 5-[5-bromo-4-(1-ethyl-2-oxo-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide, dissolved in 1.5 ml of THF/MeOH 1:1, is mixed with 10 mg of sodium borohydride and stirred for 3 hours at room temperature. While being cooled, 2-3 drops of glacial acetic acid are added and concentrated by evaporation. Uptake in acetonitrile and suctioning-off yield 17 mg (65% of theory) of 5-[5-bromo-4-(1-ethyl-2-hydroxy-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide.

reactant | 5-[5-bromo-4-(1-ethyl-2-oxo-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | 0.058 mmol, 26 mg | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)SC(C(C)=O)CC | C14H16BrN5O3S2
reactant | sodium borohydride | 10 mg | [BH4-].[Na+]
solvent | THF MeOH | 1.5 ml | C1CCOC1.CO
catalyst | acetic acid | 2-3 drops | C(C)(=O)O | C2H4O2
product | 5-[5-bromo-4-(1-ethyl-2-hydroxy-propylsulfanyl)-pyrimidin-2-ylamino]-pyridine-2-sulfonic acid amide | BrC=1C(=NC(=NC1)NC=1C=CC(=NC1)S(=O)(=O)N)SC(C(C)O)CC | C14H18BrN5O3S2
